US06239074B1
3-[4-Chloro-3-(2-cyano-2-methoxycarbonylethenyl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 1.22)
0.97 ml of methyl cyanoacetate and 0.3 ml of piperidine were added to a solution of 3.3 g of 3-(4-chloro-3-formylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine in 100 ml of tetrahydrofuran. After the mixture had been stirred for 5 hours at the reflux temperature, a further 0.97 ml of methyl cyanoacetate was added and refluxing was continued for a further 5 hours. The reaction mixture was evaporated down and the oil obtained was chromatographed (dichloromethane). The solid obtained was stirred with diisopropyl ether, isolated, washed with petroleum ether and dried.

reactant | methyl cyanoacetate | 0.97 ml | C(#N)CC(=O)OC | C4H5NO2
reactant | piperidine | 0.3 ml | N1CCCCC1 | C5H11N
reactant | 3-(4-chloro-3-formylphenyl)-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 3.3 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=O | C13H8ClF3N2O3
reactant | methyl cyanoacetate | 0.97 ml | C(#N)CC(=O)OC | C4H5NO2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-[4-Chloro-3-(2-cyano-2-methoxycarbonylethenyl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=C(C(=O)OC)C#N | C17H11ClF3N3O4
